US04529548
(B) (11β,17β)-9-Fluoro-11-hydroxy-17-(2-propenylthio)androsta-1,4-dien-3-one
To a stirred solution of 1.7 g of (11β,17β)-9-Fluoro-11-hydroxy-17-mercaptoandrosta-1,4-dien-3-one dissolved in 100 ml of methanol, there was added 1 g of sodium hydroxide followed by 2.5 ml of allyl bromide (nitrogen atmosphere). The alkylation was complete after 1 hour of stirring at room temperature. The solution was partly evaporated, water was added and the resulting solid filtered and washed with water. Crystallization of the solid from ethyl acetate-petroleum ether furnished 1.08 g of the analytical sample, melting point 173°-175° C.

reactant | (11β,17β)-9-Fluoro-11-hydroxy-17-mercaptoandrosta-1,4-dien-3-one | 1.7 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC[C@@H]([C@@]1(C)C[C@@H]2O)S)=O)C | C19H25FO2S
reactant | sodium hydroxide | 1 g | [OH-].[Na+]
reactant | allyl bromide | 2.5 ml | C(C=C)Br | C3H5Br
solvent | methanol | 100 ml | CO | CH4O
product | (11β,17β)-9-Fluoro-11-hydroxy-17-(2-propenylthio)androsta-1,4-dien-3-one | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC[C@@H]([C@@]1(C)C[C@@H]2O)SCC=C)=O)C | C22H29FO2S
